### PR TITLE
feat: `BitVec.toNat` theorems for `rotateLeft` and `rotateRight`

### PR DESCRIPTION
**Pull request by mhk119**
This PR adds `BitVec.toNat_rotateLeft` and `BitVec.toNat_rotateLeft`.

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
changelog-library

**Review by tobiasgrosser — APPROVED** [review]
This LGTM. We just need to either a force-push to the PR to take into account the `changelog-library` (the relevant GitHub action does not rerun automatically). Alternatively, one can probably just merge this PR directly.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2889,6 +2889,11 @@ theorem msb_rotateLeft {m w : Nat} {x : BitVec w} :
   · simp
     omega
 
+@[simp]
+theorem toNat_rotateLeft {x : BitVec w} {r : Nat} :
+    (x.rotateLeft r).toNat = (x.toNat <<< (r % w)) % (2^w) ||| x.toNat >>> (w - r % w) := by
+  simp only [rotateLeft, rotateLeftAux, toNat_shiftLeft, toNat_ushiftRight, toNat_or]
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2895]: Could we please have a lemma e.g. `rotateLeft_def` which combines the first two steps here? Similarly for right.

**Comment by tobiasgrosser** [comment]
@mhk119, can you use `BitVec.` in the PR title?

**Comment by kim-em** [comment]
I *think* it is possible for authors to remove the `awaiting-author` label and replace it with `awaiting-review` simply by writing `awaiting-review` in a comment. (If that doesn't work, please let me know. If it does, it's very helpful for me to be able to see which PRs need attention.)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2745,7 +2745,12 @@ theorem smod_zero {x : BitVec n} : x.smod 0#n = x := by
 
 /-! # Rotate Left -/
 
-/-- rotateLeft is invariant under `mod` by the bitwidth. -/
+/--`rotateLeft` is defined in terms of left and right shifts. -/
+theorem rotateLeft_def {x : BitVec w} {r : Nat} :
+  x.rotateLeft r = (x <<< (r % w)) ||| (x >>> (w - r % w)) := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2750]:
```suggestion
    x.rotateLeft r = (x <<< (r % w)) ||| (x >>> (w - r % w)) := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2889,8 +2894,18 @@ theorem msb_rotateLeft {m w : Nat} {x : BitVec w} :
...
     omega
 
+@[simp]
+theorem toNat_rotateLeft {x : BitVec w} {r : Nat} :
+    (x.rotateLeft r).toNat = (x.toNat <<< (r % w)) % (2^w) ||| x.toNat >>> (w - r % w) := by
+  simp only [rotateLeft_def, toNat_shiftLeft, toNat_ushiftRight, toNat_or]
+
 /-! ## Rotate Right -/
 
+/--`rotateRight` is defined in terms of left and right shifts. -/
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2904]:
```suggestion
/-- `rotateRight` is defined in terms of left and right shifts. -/
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:2750]: and below

**Comment by mhk119** [comment]
awaiting-review
